US09216972B2
To 6-bromo-3,4-dihydronaphthalen-1(2H)-one oxime (2.5 g, 10.41 mmol) in pyridine (5 mL) was added p-toluenesulfonyl chloride (2.184 g, 11.45 mmol) in one lot at room temperature. The reaction mixture was stirred at room temperature for 20 h. Ice cubes (˜10 g) were added to the flask and the contents stirred at room temperature for 30 min. The solid that separated out was filtered and washed with water (3×20 mL), dried over sodium sulfate and concentrated to yield 6-bromo-3,4-dihydronaphthalen-1(2H)-one O-tosyl oxime (3.92 g, 9.94 mmol, 95% yield) as light pink solid. The solid was azeotroped once with toluene (10 mL) and used for the subsequent reaction. MS M+1=395.

reactant | 6-bromo-3,4-dihydronaphthalen-1(2H)-one oxime | 10.41 mmol, 2.5 g | BrC=1C=C2CCCC(C2=CC1)=NO | C10H10BrNO
reactant | p-toluenesulfonyl chloride | 11.45 mmol, 2.184 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 6-bromo-3,4-dihydronaphthalen-1(2H)-one O-tosyl oxime | 9.94 mmol, 3.92 g, 95% yield | S(=O)(=O)(C1=CC=C(C)C=C1)ON=C1CCCC2=CC(=CC=C12)Br | C17H16BrNO3S
